US06762320B2
a) N-(4-Hydroxy-phenyl)-malonamide
A suspension of 6.0 g (18.5 mmol) of N-(4-benzyloxy-phenyl)-malonamide in 150 ml methanol is treated with 0.8 g of palladium 5% on charcoal. Hydrogenation is performed at room temperature and normal pressure overnight. The reaction mixture is then brought to reflux and filtered hot. Cooling of the filtrate yields 3.56 g (99%) of the title compound as a colorless solid. MS: m/e=285.1 (M++H).

reactant | N-(4-benzyloxy-phenyl)-malonamide | 18.5 mmol, 6.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(CC(=O)N)=O | C16H16N2O3
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium | 0.8 g | [Pd] | Pd
product | N-(4-Hydroxy-phenyl)-malonamide | 3.56 g, 99% | OC1=CC=C(C=C1)NC(CC(=O)N)=O | C9H10N2O3
